US08877794B2
39.4 tert-Butyl {2-[1-(4-chlorophenyl)cyclobutyl]-2-(3-cyanophenyl)ethyl}carbamate
3-{2-Amino-1-[1-(4-chlorophenyl)cyclobutyl]ethyl}benzonitrile (2.0 g, 6.43 mmol) was dissolved in acetonitrile and di-tert-butyl dicarbonate (2.106 g, 9.65 mmol) and ethyldiisopropylamine (2.495 g, 19.3 mmol) was added. The reaction mixture was then heated to 60° C. for 5 h. The reaction mixture was cooled to room temperature, diluted with ethyl acetate and washed with aqueous hydrochloric acid (1 N). The organic phase was successively washed with aqueous hydrochloric acid (1 N), saturated sodium bicarbonate and brine. After drying (magnesium sulfate) the solution was concentrated in vacuo. The crude product was purified by flash chromatography (silica, dichloromethane, methanol). Yield: 2.5 g (6.08 mmol, 95%)

reactant | 3-{2-Amino-1-[1-(4-chlorophenyl)cyclobutyl]ethyl}benzonitrile | 6.43 mmol, 2.0 g | NCC(C1(CCC1)C1=CC=C(C=C1)Cl)C=1C=C(C#N)C=CC1 | C19H19ClN2
reactant | di-tert-butyl dicarbonate | 9.65 mmol, 2.106 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyldiisopropylamine | 19.3 mmol, 2.495 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl {2-[1-(4-chlorophenyl)cyclobutyl]-2-(3-cyanophenyl)ethyl}carbamate | ClC1=CC=C(C=C1)C1(CCC1)C(CNC(OC(C)(C)C)=O)C1=CC(=CC=C1)C#N | C24H27ClN2O2
